US09428470B2
F) Di-tert-butyl 2,2′-(3-(3-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate
A mixture of di-tert-butyl 2,2′-(3-(3-(benzyloxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate (765 mg), a palladium carbon-ethylenediamine complex (38 mg), THF (10 mL), and methanol (10 mL) was stirred at room temperature for 30 hours under a hydrogen atmosphere. The catalyst was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (611 mg).

reactant | di-tert-butyl 2,2′-(3-(3-(benzyloxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate | 765 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NOC(C1)(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C28H35NO6
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | Di-tert-butyl 2,2′-(3-(3-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate | 611 mg | OC=1C=C(C=CC1)C1=NOC(C1)(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C21H29NO6
